US09233956B2
N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]phenyl}-2,6-difluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Intermediate 6, using N-{3-[(Z)-2-(2-chloro-4-pyrimidinyl)-1-hydroxyethenyl]phenyl}-2,6-difluorobenzenesulfonamide (1.00 g, 2.36 mmol) and 2,2-dimethylpropanethioamide (0.277 g, 2.36 mmol) the title compound was obtained (690 mg, 53.3% yield). MS (ESI): 521.1 [M+H]+.

reactant | N-{3-[(Z)-2-(2-chloro-4-pyrimidinyl)-1-hydroxyethenyl]phenyl}-2,6-difluorobenzenesulfonamide | 2.36 mmol, 1.00 g | ClC1=NC=CC(=N1)\C=C(/O)\C=1C=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F | C18H12ClF2N3O3S
reactant | 2,2-dimethylpropanethioamide | 2.36 mmol, 0.277 g | CC(C(N)=S)(C)C | C5H11NS
product | N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]phenyl}-2,6-difluorobenzenesulfonamide | 53.3% yield | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F | C23H19ClF2N4O2S2
